US06455550B1
Preparation of 4-[(2-Chloro-5-cyanophenylcarbonyl)amino]-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine
To a mixture of 4-[(2-chloro-5-cyanophenylcarbonyl)amino]-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester (0.1 mmol, 51 mg) and lithium iodide (1.0 mmol, 133 mg) was added pyridine (2 mL) at room temperature. The solution was refluxed for 15 h at which time TLC analysis of the mixture indicated the absence of starting material. Then, the mixture was cooled to room temperature and diluted with water (15 mL) and the bulk of the pyridine was removed under reduced pressure. Then it was extracted with ether (2×15 mL) to remove any neutral impurities. The aqueous layer was acidified with 1N HCl and the precipitated white solid was collected by filtration and washed with 20 mL of water and 20 mL of hexane. After air-drying, the crude product was crystallized from acetonitrile to afford 20 mg (40%) of a white solid: mp 169-172° C. HR MS (C26H26ClN3O5): Obs mass, 498.1802. Calcd mass, 498.1795, M+H).

reactant | 4-[(2-chloro-5-cyanophenylcarbonyl)amino]-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 0.1 mmol, 51 mg | COC([C@@H](NC(=O)C1(CCCC1)CCOC)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC(=C1)C#N)Cl)=O | C27H30ClN3O5
reactant | lithium iodide | 1.0 mmol, 133 mg | [I-].[Li+]
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 15 mL | O | H2O
product | 4-[(2-Chloro-5-cyanophenylcarbonyl)amino]-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine | 20 mg, 40% | ClC1=C(C=C(C=C1)C#N)C(=O)NC1=CC=C(C[C@H](NC(=O)C2(CCCC2)CCOC)C(=O)O)C=C1 | C26H28ClN3O5
